* C:\Users\shane\Documents\GitHub\coLAS\LTSpice\HC-SR04_receiver.asc
XU1 N005 N001 VCC 0 N004 LM324
V1 N002 0 SINE(0 .02 40000)
R1 N003 N002 10k
C1 N001 N003 10n
R2 N004 N001 62k
R3 N005 VCC 1k
R4 0 N005 1k
C2 N005 0 1µ2
C3 N005 0 150n
V2 VCC 0 5
.lib LM324.ti.lib
.tran 0.01
.backanno
.end
