* C:\Users\shane\Documents\GitHub\coLAS\LTSpice\HC-SR04_receiver.asc
XU1 N005 N001 vcc 0 N002 LM324
V1 N003 0 SINE(0 .002 40000)
V2 vcc 0 5
R1 N004 N003 10k
C1 N001 N004 10n
R2 N002 N001 62k
R3 N005 vcc 1k
R4 0 N005 1k
C2 N005 0 1µ2
C3 N005 0 150n
.lib LM324.ti.lib
.tran .01
.backanno
.end
